US06605629B1
To a mixture of 4-(5-chloro-2-thienyl)-5-oxazolebutanol (800 mg), 2-methoxyphenol (770 mg), tributylphosphine (1.24 g) and tetrahydrofuran (10 ml) was added dropwise a toluene solution of diethyl azodicarboxylate (40%, 2.61 g) at room temperature, and the resulting mixture was stirred for 1 hour. After the reaction mixture was concentrated, the residue was subjected to silica gel column chromatography, and 4-(5-chloro-2-thienyl)-5-[4-(2-methoxyphenoxy)butyl]oxazole was obtained as an oil (420 mg, 37%) from an ethyl acetate-hexane (1:4, v/v)-eluted fraction.

reactant | 4-(5-chloro-2-thienyl)-5-oxazolebutanol | 800 mg | ClC1=CC=C(S1)C=1N=COC1CCCCO | C11H12ClNO2S
reactant | 2-methoxyphenol | 770 mg | COC1=C(C=CC=C1)O | C7H8O2
reactant | tributylphosphine | 1.24 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | diethyl azodicarboxylate | 2.61 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-(5-chloro-2-thienyl)-5-[4-(2-methoxyphenoxy)butyl]oxazole | ClC1=CC=C(S1)C=1N=COC1CCCCOC1=C(C=CC=C1)OC | C18H18ClNO3S
